US04415572
A mixture of 2.32 g of 6-morpholino-3,4-dihydrocarbostyril and 14.7 g of 4-methoxybenzylamine was placed in a sealed tube and heated at 170° to 200° C. for 5 hours. Excessive 4-methoxybenzylamine was distilled off under reduced pressure and the residue was isolated and purified through silica gel column chromatography followed by recrystallization from ethanol to give 0.35 g of 6-[4-(4-methoxybenzyl)-1-piperazinyl]-3,4-dihydrocarbostyril, m.p. 196°-198° C., colorless needles.

reactant | 6-morpholino-3,4-dihydrocarbostyril | 2.32 g | O1CCN(CC1)C=1C=C2CCC(NC2=CC1)=O | C13H16N2O2
reactant | 4-methoxybenzylamine | 14.7 g | COC1=CC=C(CN)C=C1 | C8H11NO
product | 6-[4-(4-methoxybenzyl)-1-piperazinyl]-3,4-dihydrocarbostyril | 0.35 g | COC1=CC=C(CN2CCN(CC2)C=2C=C3CCC(NC3=CC2)=O)C=C1 | C21H25N3O2
